US04540699
N-Methyl-4-formyl-2-pyridone* (30.17 g), monoethyl malonate (38.15 g), pyridine (150 ml) and piperidine (3 ml) were stirred under reflux for 61/2 hours. The reaction mixture was evaporated under reduced pressure to afford a residue which was crystallised from aqueous isopropanol to give ethyl β-(N-methyl-2-oxo-4-pyridyl)acrylate as a pale yellow solid (18.44 g), m.p. 126°-7° C.

reactant | N-Methyl-4-formyl-2-pyridone | CN1C(C=C(C=C1)C=O)=O | C7H7NO2
reactant | monoethyl malonate | 38.15 g | C(CC(=O)[O-])(=O)OCC
reactant | piperidine | 3 ml | N1CCCCC1 | C5H11N
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | ethyl β-(N-methyl-2-oxo-4-pyridyl)acrylate | 18.44 g | CN1C(C=C(C=C1)C=CC(=O)OCC)=O | C11H13NO3
